US06001849
11d. 2-(1-BOC-2-(S)-pyrrolidinyl)-5-chlorofuro[3,2-b]pyridine
A 3.07 g (12.0 mmol) sample of 6-chloro-2-iodo-3-pyridinol, from step 11c above, was dissolved in 10 mL of DMF, and (Ph3P)2PdCl2 (0.38 g, 0.50 mmol), CuI (0.380 g, 1.98 mmol) and triethylanue (1.7 mL, 12 mmol) were added. The mixture was stirred under N2 at room temperature for 1 hour, then 1.95 g (10.0 mmol) of 1-BOC-2-(S)-ethynylpyrrolidine, from Example 1a above, dissolved in 5 mL of DMF, was added carefully. The reaction mixture was stirred at 60° C. for 16 hours, cooled to room temperature, diluted with ether, washed with 50% brine and dried over MgSO4, then the solvent was removed. The residue was chromatographed on silica gel, eluting with 100:0 to 50:50 hexane:EtOAc to give 1.54 g of title compound: 1H NMR (DMSO, 300 MHz, 130° C.) δ 1.37 (two s, 9H), 1.89-2.07 (m, 3H), 2.37 (m, 1H), 3.40-3.54 (m, 1H), 4.98 (m, 1H), 6.72 (s, 1H), 7.26-7.29 (d, 1H, J=8.6 Hz), 7.93-7.96 (d, 1H, J=8.6 Hz); MS m/z: 323 (M+H)+.

reactant | 6-chloro-2-iodo-3-pyridinol | ClC1=CC=C(C(=N1)I)O | C5H3ClINO
reactant | 1-BOC-2-(S)-ethynylpyrrolidine | 10.0 mmol, 1.95 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C#C | C11H17NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | (Ph3P)2PdCl2 | 0.50 mmol, 0.38 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.98 mmol, 0.380 g | [Cu]I
product | 2-(1-BOC-2-(S)-pyrrolidinyl)-5-chlorofuro[3,2-b]pyridine | 1.54 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC2=NC(=CC=C2O1)Cl | C16H19ClN2O3
